US07670504B2
103 g of methyl 4-methoxymethylidenecyclohexanecarboxylate was dissolved in 350 mL of THF and 100 mL of 10% hydrochloric acid was added dropwise at 11 to 13° C. over 10 minutes. After stirring at room temperature for 3 hours, 80 mL of hexane was added. The aqueous layer was extracted with ethyl acetate and then combined with the organic layer, followed by washing in turn with water and saturated saline. The mixture was dried over anhydrous sodium sulfate and concentrated to obtain 92.4 g of methyl 4-formylcyclohexanecarboxylate as an oily substance. The gas chromatography analysis revealed that the resulting substance is a mixture of a cis isomer and a trans isomer in a mixing ratio of 64:36.

reactant | methyl 4-methoxymethylidenecyclohexanecarboxylate | 103 g | COC=C1CCC(CC1)C(=O)OC | C10H16O3
reactant | hydrochloric acid | 100 mL | Cl | ClH
reactant | hexane | 80 mL | CCCCCC | C6H14
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | methyl 4-formylcyclohexanecarboxylate | 92.4 g | C(=O)C1CCC(CC1)C(=O)OC | C9H14O3
